US08076517B2
(R)-3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-butyl)-hydrazide (100 mg, 0.34 mmol) and 3,5-dimethoxy-4-methyl-benzoyl chloride (90 mg, 0.41 mmol) were dissolved in 1 mL methylene chloride. 1.5 eq. of ca. 25% K2CO3 was added, and the reaction mixture was stirred at room temperature and monitored by TLC. Upon completion, the phases were separated, adding additional CH2Cl2 and/or water as needed to aid manipulation. The CH2Cl2 phase was dried over MgSO4 or Na2SO4, and solvent was removed in vacuo to provide an oily solid. This was triturated with 1:1 hexane:ether and allowed to dry in air to yield (R)-3,5-Dimethoxy-4-methyl-benzoic acid N-(1-tert-butyl-butyl)-N′-(3-methoxy-2-methyl-benzoyl)-hydrazide. Rf=0.29 (2:1 hexanes:ethyl acetate); 1H NMR (400 MHz, CDCl3) δ 7.1 (t, 1H), 7.0 (s, NH 1H), 6.9 (d, 1H), 6.7 (s, 2H), 6.3 (d, 1H), 4.78 (m, 1H), 3.95 (s, 3H), 3.85 (2 s, 6H), 2.2 (s, 3H), 2.05 (m, 1H), 1.95 (s, 3H), 1.8 (m, 1H), 1.6 (m, 2H), 1.2+1.1+1.05 (3 s, 9H), 1.05 (m, 3H); HRMS (ESI) m/z calcd for C27H39N2O5 [M+H]+ 471.2859, found 471.2850, calcd for C27H38NaN2O5 [M+Na]+ 493.2670, found 493.2678.

reactant | (R)-3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-butyl)-hydrazide | 0.34 mmol, 100 mg | C(C)(C)(C)[C@@H](CCC)NNC(C1=C(C(=CC=C1)OC)C)=O | C17H28N2O2
reactant | 3,5-dimethoxy-4-methyl-benzoyl chloride | 0.41 mmol, 90 mg | COC=1C=C(C(=O)Cl)C=C(C1C)OC | C10H11ClO3
reactant | K2CO3 | 1.5 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-3,5-Dimethoxy-4-methyl-benzoic acid N-(1-tert-butyl-butyl)-N′-(3-methoxy-2-methyl-benzoyl)-hydrazide | C(C)(C)(C)[C@@H](CCC)N(NC(C1=C(C(=CC=C1)OC)C)=O)C(C1=CC(=C(C(=C1)OC)C)OC)=O | C27H38N2O5
